US06239142B1
N-(4-Chlorobenzyl)-2-(((2-hydroxy-2-(4-hydroxyphenyl)ethyl)(methyl)amino)methyl)-7-methyl-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide
To a solution of N-(4-chlorobenzyl)-2-(hydroxymethyl)-7-methyl-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide (0.300 g) from Example No. 35 in DMF (17 mL) are added DMAP (16 mg), 2,4,6-collidine (0.27 mL), and methanesulfonyl chloride (0.16 mL). The reaction mixture is stirred at room temperature for 1 h and then synephrine (1.39 g) is added. The mixture is stirred at room temperature for 18 h and is then poured into water (50 mL). The resulting off-white solid is filtered off. Additional material precipitates out of the filtrate. The two lots of material are combined and purified by column chromatography (CH2Cl2, CH2Cl2/methanol, 99/1; 98/2; 96/4) to yield 0.253 g (60%) of the title compound as a white solid.

reactant | N-(4-chlorobenzyl)-2-(hydroxymethyl)-7-methyl-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide | 0.300 g | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C)SC(=C3)CO)=O)C=C1 | C17H15ClN2O3S
reactant | 2,4,6-collidine | 0.27 mL | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | methanesulfonyl chloride | 0.16 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | synephrine | 1.39 g | CNCC(C=1C=CC(=CC1)O)O | C9H13NO2
solvent | DMF | 17 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 16 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | 50 mL | O | H2O
product | N-(4-Chlorobenzyl)-2-(((2-hydroxy-2-(4-hydroxyphenyl)ethyl)(methyl)amino)methyl)-7-methyl-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide | 0.253 g, 60% | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C)SC(=C3)CN(C)CC(C3=CC=C(C=C3)O)O)=O)C=C1 | C26H26ClN3O4S
